US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (2.4 g), sodium bicarbonate (0.7 g) and 4-(5-chloro-3-indolyl)-1,2,3,6-tetrahydropyridine (2 g) in dimethylformamide (15 cc) and tetrahydrofuran (15 cc). The mixture is heated for 5 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is maintained for 7 hours at this temperature. After purification by crystallization from water (50 cc), then recrystallization from boiling acetonitrile (50 cc), 2-{3-[4(5-chloro-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (2.1 g) is obtained, m.p. 189° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.4 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | sodium bicarbonate | 0.7 g | C([O-])(O)=O.[Na+]
reactant | 4-(5-chloro-3-indolyl)-1,2,3,6-tetrahydropyridine | 2 g | ClC=1C=C2C(=CNC2=CC1)C=1CCNCC1 | C13H13ClN2
solvent | dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 15 cc | O1CCCC1 | C4H8O
product | 2-{3-[4(5-chloro-3-indolyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 2.1 g | ClC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C26H24ClN3O2S
